US08026240B2
(3aR,6aR)-5-methyl-1-(4-(4,4,5,5-tetramethyl-1,3-dioxaborolan-2-yl)phenyl)octa-hydropyrrolo[3,4-b]pyrrole
(3aR,6aR)-1-(4-bromophenyl)-5-methyloctahydropyrrolo[3,4-b]pyrrole (1.0 g, 3.6 mmol), bis(pinacolato)diboron (4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane, (1.0 g, 3.9 mmol), Pd(dppf)Cl2CH2Cl2 (100 mg, 0.12 mmol) and KOAc (1150 mg, 11.7 mmol) were placed in a sealed microwave reaction tube, and purged three times with N2 gas. Dioxane (20 mL) was added, and the mixture was heated at 150° C. for 15 minutes. After cooling down to 23° C., the mixture was filtered, and solvent was removed under reduced pressure. The mixture was then purified via chromatography (SiO2, 10-60% EtOAc in hexanes) to provide the title compound. 1H NMR (300 MHz, CDCl3): δ=7.67 ppm (m, 2H), 6.54 (m, 2H), 4.21 (m, 1H), 3.52 (m, 1H), 3.33 (m, 1H), 2.97 (m, 1H), 2.67 (m, 2H), 2.57 (m, 2H), 2.34 (br, 3H), 2.15 (m, 1H), 1.95 (m, 1H), 1.32 (s, 12H). MS (ESI, M+1): 329.1.

reactant | (3aR,6aR)-1-(4-bromophenyl)-5-methyloctahydropyrrolo[3,4-b]pyrrole | 3.6 mmol, 1.0 g | BrC1=CC=C(C=C1)N1[C@@H]2[C@H](CC1)CN(C2)C | C13H17BrN2
reactant | bis(pinacolato)diboron | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | 1,3,2-dioxaborolane | 3.9 mmol, 1.0 g | O1BOCC1 | C2H5BO2
reactant | KOAc | 11.7 mmol, 1150 mg | CC(=O)[O-].[K+]
product | (3aR,6aR)-5-methyl-1-(4-(4,4,5,5-tetramethyl-1,3-dioxaborolan-2-yl)phenyl)octa-hydropyrrolo[3,4-b]pyrrole | CN1C[C@@H]2N(CC[C@@H]2C1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C19H29BN2O2
